US04703046
A solution of 7-amino-3-hydroxymethyl-3-cephem-4-carboxylic acid (2.5 g.) and trimethylsilylacetamide (10.6 g.) in dry ethyl acetate (60 ml.) and a mixture of dimethylformamide (0.75 ml.), phosphoryl chloride (0.88 ml.), 2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 2.5 g.) and dry ethyl acetate (7.0 ml.) were stirred at -20° to -10° C. for an hour. The reaction mixture was added to aqueous solution (50 ml.) of sodium bicarbonate (3.3 g.), under ice-cooling. Methanol (2 ml.) was added to the mixture and stirred under ice-cooling for 30 minutes. The mixture was washed with ethyl acetate twice. After removing the ethyl acetate, the aqueous solution was adjusted to pH 6.5 with sodium bicarbonate and allowed to stand in a refrigerator. The solution was adjusted to pH 5.0 with 6N-hydrochloric acid and subjected to column chromatography on non-ionic adsorption resin HP-20 (Trademark, manufactured by Mitsubishi Chemical Industries Ltd.), washed with water (200 ml.) and then eluted with 20% isopropyl alcohol (400 ml.). The eluate was evaporated in vacuo. The residue was pulverized with acetone (80 ml.), and the precipitates were collected by filtration and dried to give sodium 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-hydroxymethyl-3-cephem-4-carboxylate (syn isomer, 1.9 g.).

reactant | 7-amino-3-hydroxymethyl-3-cephem-4-carboxylic acid | 2.5 g | NC1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O | C8H10N2O4S
reactant | trimethylsilylacetamide | 10.6 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | phosphoryl chloride | 0.88 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetic acid | 2.5 g | C(=O)NC=1SC(=C(N1)C(C(=O)O)=NOC)Br | C7H6BrN3O4S
reactant | sodium bicarbonate | 50 ml, 3.3 g | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 7.0 ml | C(C)(=O)OCC | C4H8O2
solvent | Methanol | 2 ml | CO | CH4O
solvent | dimethylformamide | 0.75 ml | CN(C=O)C | C3H7NO
product | sodium 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-hydroxymethyl-3-cephem-4-carboxylate | 1.9 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)[O-])C1=O)=NOC)Br.[Na+] | InChI=1S/C15H14BrN5O7S2.Na/c1-28-20-7(6-10(16)30-15(19-6)17-4-23)11(24)18-8-12(25)21-9(14(26)27)5(2-22)3-29-13(8)21;/h4,8,13,22H,2-3H2,1H3,(H,18,24)(H,26,27)(H,17,19,23);/q;+1/p-1/t8?,13-;/m1./s1
